US05380940
A 250-mL round bottom flask fitted with a rubber septum, a magnetic stirring bar, and a connecting tube attached to a mercury bubbler was cooled in an ice bath and charged with diethyl ether (90 mL) under inert atmosphere. Cyclohexene (21.2 mL, 210 mmol) was added, followed by the slow addition of monochloroborane-methyl sulfide (11.6 mL, 100 mmol). The mixture was stirred at 0° C. for 2 h. The solvent was removed under reduced pressure (25° C., 12 Torr). Distillation provided pure dicyclohexylchloroborane (δ76 ppm in hexane), 16.85 g, 80% yield, bp 104°-105° C. (0.5 mm). Synthesis of this product by this process can readily be carried out on a molar scale.

reactant | Cyclohexene | 210 mmol, 21.2 mL | C1=CCCCC1 | C6H10
reactant | monochloroborane methyl sulfide | 100 mmol, 11.6 mL | ClB.CSC
catalyst | mercury | [Hg] | Hg
solvent | diethyl ether | 90 mL | C(C)OCC | C4H10O
product | dicyclohexylchloroborane | 80% yield | C1(CCCCC1)B(Cl)C1CCCCC1 | C12H22BCl
